US05808062
4-Hydroxy-3-(2-isopropylphenoxy)-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method A using 1-phenyl-1-trimethylsilyloxy)ethylene (2.62 g, 13.6 mmol) and diethyl ester of 2-(isopropyl)phenoxy propanedioic acid (2.0 g, 6.8 mmol). 1 H NMR (250 MHz, DMSO-d6) δ 1.25 (d, 6H), 3.44 (m, 1H), 6.67 (d, 1H), 6.89 (s, 1H), 7.0 (t, 1H), 7.09 (t, 1H), 7.29 (d, 1H), 7.53 (m, 3H), 7.83 (m, 2H).

reactant | ethylene | 13.6 mmol, 2.62 g | C=C | C2H4
reactant | 2-(isopropyl)phenoxy propanedioic acid | 6.8 mmol, 2.0 g | C(C)(C)C1=C(OC(C(=O)O)C(=O)O)C=CC=C1 | C12H14O5
product | 4-Hydroxy-3-(2-isopropylphenoxy)-6-phenyl-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)OC1=C(C=CC=C1)C(C)C | C20H18O4
